US09427475B2
Step C: 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanoic acid
A mixture of 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanenitrile (6 g, 12.36 mmol) in ethanol (100 mL) was treated with water (100 mL) and 5N NaOH (25 mL, 124 mmol) and the resulting mixture heated at reflux for 3 days. Mixture cooled and ethanol removed by evaporation, the remaining aqueous was acidified by the addition of conc. HCl and extracted with EtOAc (3×100 mL); combined EtOAc layers washed with sat. NaCl (100 mL), dried over Na2SO4, filtered and evaporated to give the title compound (5.2 g, 83%) as a light yellow oil. 1H NMR (CDCl3) δ 7.40-7.30 (15H, m), 4.79 (2H, m), 4.71 (1H, d, J=12.0 Hz), 4.65 (2H, m), 4.53 (1H, d, J=11.8 Hz), 4.01 (1H, m), 3.92 (1H, m), 3.83 (1H, m), 3.78 (2H, m), 2.39 (2H, m), 1.75 (2H, m), 1.59 (2H, m), 1.30 (3H, d, J=6.6 Hz).

reactant | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanenitrile | 12.36 mmol, 6 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)C(CC#N)C | C31H35NO4
reactant | water | 100 mL | O | H2O
reactant | NaOH | 124 mmol, 5N, 25 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanoic acid | 5.2 g, 83% | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)C(CC(=O)O)C | C31H36O6
